US09120804B2
(4-tert-butyl-phenyl)-[8-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-yl]-amine (“C62”)
8-(1-Methylpyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-amine, as described earlier, is coupled with 1-bromo-4-tert-butyl-benzene according to general procedure 2.

reactant | 8-(1-Methylpyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-amine | CN1N=CC(=C1)C=1C=2N(C=CN1)N=C(N2)N | C9H9N7
reactant | 1-bromo-4-tert-butyl-benzene | BrC1=CC=C(C=C1)C(C)(C)C | C10H13Br
product | (4-tert-butyl-phenyl)-[8-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-yl]-amine | C(C)(C)(C)C1=CC=C(C=C1)NC1=NN2C(C(=NC=C2)C=2C=NN(C2)C)=N1 | C19H21N7
